US05096890
(A) Preparation of 3-(R,S)-(1-cyano-1,1-diphenylmethyl)-1-tosylpyrrolidine
Diphenylacetonitrile (17.1 g) was added to a stirred suspension of sodium hydride (4 g of a 60% suspension in mineral oil) in anhydrous toluene (250 ml) and the mixture was heated under reflux for 2 hours. On cooling to room temperature, 1-tosyl-3-(R,S)-tosyloxypyrrolidine (28 g--see Preparation 5) was added in portions and the mixture heated under reflux for 3 hours. The mixture was diluted with toluene (150 ml), washed with 5% aqueous sodium hydroxide (2×100 ml) and brine (150 ml) then dried (MgSO4) and concentrated in vacuo to give a solid which was purified by trituration with methanol to give the title compound as a colourless microcrystalline powder, yield 18 g, m.p. 186°-187° C.

reactant | Diphenylacetonitrile | 17.1 g | C1(=CC=CC=C1)C(C#N)C1=CC=CC=C1 | C14H11N
reactant | sodium hydride | [H-].[Na+]
reactant | 1-tosyl-3-(R,S)-tosyloxypyrrolidine | 28 g | S(=O)(=O)(C1=CC=C(C)C=C1)N1CC(CC1)OS(=O)(=O)C1=CC=C(C)C=C1 | C18H21NO5S2
solvent | toluene | 250 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
product | 3-(R,S)-(1-cyano-1,1-diphenylmethyl)-1-tosylpyrrolidine | C(#N)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1CN(CC1)S(=O)(=O)C1=CC=C(C)C=C1 | C25H24N2O2S
